US09260400B2
1-[2-(3-Methoxyphenoxy)ethyl]4-[3-(4-pyridyl)-2-pyridyl]piperazine
The title compound was prepared starting from 1-(2-chloroethoxy)-3-methoxybenzene and 1-[3-(4-pyridyl)-2-pyridyl]piperazine following the procedure outlined for Example 15. 1H NMR (CDCl3): δ 2.47-2.52 (m, 4H), 2.75 (t, 2H, J=5.9 Hz), 2.92 (br s, 4H), 3.77 (s, 3H), 4.05 (t, 2H, J=5.9 Hz), 6.47-6.54 (m, 3H), 7.01-7.09 (m, 2H), 7.56 (dd, 1H, J=1.9, 7.4 Hz), 7.60 (dd, 2H, J=1.7, 4.7 Hz), 8.29 (dd, 1H, J=1.9, 4.9 Hz), 8.66 (dd, 2H, J=1.7, 4.9 Hz). GC-MS m/z 391 (M+1, 1), 390 (M+, 8), 267 (35), 253 (100), 198 (10), 184 (40).

reactant | 1-(2-chloroethoxy)-3-methoxybenzene | ClCCOC1=CC(=CC=C1)OC | C9H11ClO2
reactant | 1-[3-(4-pyridyl)-2-pyridyl]piperazine | N1=CC=C(C=C1)C=1C(=NC=CC1)N1CCNCC1 | C14H16N4
product | 1-[2-(3-Methoxyphenoxy)ethyl]4-[3-(4-pyridyl)-2-pyridyl]piperazine | COC=1C=C(OCCN2CCN(CC2)C2=NC=CC=C2C2=CC=NC=C2)C=CC1 | C23H26N4O2
